US06620940B1
To a solution of 3-chloro-4-iodo-1,2,5-thiadiazole (62 mg, 0.25 mmol) in toluene (1 ml) under nitrogen is added tributyl-(3-pyridyl)stannane (92 mg, 0.25 mmol) and Pd2dba3 (5.7 mg, 5%mol). The resulting mixture is heated to reflux for 2 hours. A 76% yield was measured by quantitative HPLC, TLC (Hexane8/EtOAc2): only product. Similar results were obtained with 2% of Pd2(dba)3 as catalyst as well with Pd(CH3CN)2Cl2 or Pd(OAc)2.

reactant | 3-chloro-4-iodo-1,2,5-thiadiazole | 0.25 mmol, 62 mg | ClC1=NSN=C1I | C2ClIN2S
reactant | tributyl-(3-pyridyl)stannane | 0.25 mmol, 92 mg | C(CCC)[Sn](C=1C=NC=CC1)(CCCC)CCCC
reactant | Pd2dba3 | 5.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Pd(OAc)2 | 76% yield | CC(=O)[O-].CC(=O)[O-].[Pd+2] | InChI=1S/2C2H4O2.Pd/c2*1-2(3)4;/h2*1H3,(H,3,4);/q;;+2/p-2
